US04221737
A. 1-Methylthio-1-(2-propynylamino)-2-nitroethylene
A solution of propargylamine (1.10 g, 0.02 mole) in 22 ml of methanol was added dropwise to a stirred suspension of 1-methylsulfinyl-1-methylthio-2-nitroethylene [prepared according to the procedure described in Belgian Patent 841,353], at 25°. After 1 hour at ambient temperature the solution was evaporated under reduced pressure, triturated under 20 ml of cold isopropanol, and filtered to give the product. Recrystallization from isopropanol gave the title product, mp 131°-132°.

reactant | propargylamine | 0.02 mole, 1.10 g | C(C#C)N | C3H5N
reactant | 1-methylsulfinyl-1-methylthio-2-nitroethylene | CS(=O)C(=C[N+](=O)[O-])SC | C4H7NO3S2
solvent | methanol | 22 ml | CO | CH4O
product | 1-Methylthio-1-(2-propynylamino)-2-nitroethylene | CSC(=C[N+](=O)[O-])NCC#C | C6H8N2O2S
